US07816371B2
a. 4-(5-Nitro-1-oxo-1H-isoquinolin-2-ylmethyl)-piperidine-1-carboxylic acid-tert-butyl ester
Into a round bottom flask was combined 5-nitro-isochromen-1-one (2.0 g, 0.0094 mol), tert-butyl 4-(aminomethyl)piperidine-1-carboxylate hydrochloride (4.7 g, 0.019 mol) and methanol (80 mL, 2 mol). The mixture was heated at reflux for 1.5 hours. The mixture was cooled to room temperature and was stirred overnight. LC-MS showed the starting material was completely consumed. Volatiles were removed and the resulting oil was purified by silical gel in a methanol:methylene chloride (0-10%) gradient. Fractions containing the desired product, as determined by TLC and LC-MS, were combined and concentrated to yield a yellow solid (3.22 g). MS m/z=388.1 (M+1).

reactant | 5-nitro-isochromen-1-one | 0.0094 mol, 2.0 g | [N+](=O)([O-])C1=C2C=COC(C2=CC=C1)=O | C9H5NO4
reactant | tert-butyl 4-(aminomethyl)piperidine-1-carboxylate hydrochloride | 0.019 mol, 4.7 g | Cl.NCC1CCN(CC1)C(=O)OC(C)(C)C
reactant | methanol | 2 mol, 80 mL | CO | CH4O
product | 4-(5-Nitro-1-oxo-1H-isoquinolin-2-ylmethyl)-piperidine-1-carboxylic acid-tert-butyl ester | 3.22 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O | C20H25N3O5
